US08217065B2
C. 2-(2,6-Dimethyl-4-morpholin-4-yl-phenyl)-3H-benzoimidazole -5-carboxylic acid methyl ester
To a stirred solution of 2.4 g of 2-(2,6-Dimethyl-4-trifluoromethanesulfonyloxy-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester in 6 ml of toluene was added 4 ml of morpholine, 280 mg of Pd2(dba)3, 400 mg of P(biphenyl)t -Bu2 and 2.0 g of K3PO4. The reaction vessel sealed and heated at 80° C. overnight. The reaction was cooled to room temperature and diluted with water and heptane. The resulting precipitates were collected by filtration, washed with water and dried to afford the title compound. LCMS retention T=1.14 min, m/z=366.2, Method 10.

reactant | 2-(2,6-Dimethyl-4-trifluoromethanesulfonyloxy-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 2.4 g | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OS(=O)(=O)C(F)(F)F)C)C=C1 | C18H15F3N2O5S
reactant | morpholine | 4 ml | N1CCOCC1 | C4H9NO
reactant | K3PO4 | 2.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | heptane | CCCCCCC | C7H16
catalyst | Pd2(dba)3 | 280 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(2,6-Dimethyl-4-morpholin-4-yl-phenyl)-3H-benzoimidazole -5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)N2CCOCC2)C)C=C1 | C21H23N3O3
